US05502054
A mixture of 12.0 g (0.0558 mole) of 4-(2,4-dichlorophenyl)-3-butyn-1-ol and 0.4 g of platinum oxide in 280 mL of ethanol was placed in a Parr hydrogenator. Hydrogen gas was introduced into the reactor until there was no further uptake. Upon completion of the reaction, the reaction mixture was filtered to remove the platinum oxide catalyst, and then the solvent was evaporated under reduced pressure, leaving 4-(2,4-dichlorophenyl)-1-butanol as the residue. The NMR spectrum was consistent with proposed structure.

reactant | 4-(2,4-dichlorophenyl)-3-butyn-1-ol | 0.0558 mole, 12.0 g | ClC1=C(C=CC(=C1)Cl)C#CCCO | C10H8Cl2O
reactant | Hydrogen | [H][H] | H2
solvent | ethanol | 280 mL | C(C)O | C2H6O
catalyst | platinum oxide | 0.4 g | [Pt]=O
product | 4-(2,4-dichlorophenyl)-1-butanol | ClC1=C(C=CC(=C1)Cl)CCCCO | C10H12Cl2O
